US08008279B2
(2,2-Difluoro-1,3-benzodioxol-4-yl)hydrazine
The 2,2-Difluoro-benzo[1,3]dioxol-4-ylamine (1.99 g, 11.5 mmol) was cooled and cone hydrochloric acid (10 mL) added. After recooling to 0° C. or less a solution of the sodium nitrite (873 mg, 12.7 mmol) in water (10 mL) was added dropwise. The reaction was stirred at the same temp for 30 min when tin chloride (6.55 g, 34.5 mmol) in hydrochloric acid (10 mL) was added dropwise again keeping temp ea 0° C. (nb initial additions of SnCl2 were very exothermic and the initial thick ppt required a large stirrer to keep things moving). The reaction was stored in the fridge overnight at 0° C. The resulting solid was filtered off, washed with sat NaCl (50 mL) and then ether:hexane 1:2 (50 mL) before drying to give a white solid. The solid was treated with 50% aqueous sodium hydroxide (100 mL) and extracted with ether (3×50 mL). The combined extracts were dried and filtered to give a yellow oil which crystallised to long needles on standing (1.28 g, 60%).

reactant | 2,2-Difluoro-benzo[1,3]dioxol-4-ylamine | 11.5 mmol, 1.99 g | FC1(OC2=C(O1)C=CC=C2N)F | C7H5F2NO2
reactant | sodium nitrite | 12.7 mmol, 873 mg | N(=O)[O-].[Na+]
reactant | tin chloride | 34.5 mmol, 6.55 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | SnCl2 | Cl[Sn]Cl
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | hydrochloric acid | 10 mL | Cl | ClH
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | (2,2-Difluoro-1,3-benzodioxol-4-yl)hydrazine | FC1(OC2=C(O1)C=CC=C2NN)F | C7H6F2N2O2
